US05602277
EXAMPLE 16 4-[(Methylsulfonyl)amino]benzoic acid.
A mixture of ethyl 4-[(methylsulfonyl)amino]benzoate (Lumma, W. C. et al. J. Med. Chem. 1987, 30, 758-763) (2.43 g, 0.01 mol) in 1N sodium hydroxide (22 mL, 0.022 mol) was stirred at room temperature for 24 h and then at 48° C. for 24 h. The mixture was acidified with concentrated hydrochloric acid to give a white precipitate which was separated by filtration. The cake was washed with water, dried, and recrystallized with ethanol-water to give 1.4 g (65%) of the title compound as white flakes, mp 248° C.

reactant | ethyl 4-[(methylsulfonyl)amino]benzoate | 0.01 mol, 2.43 g | CS(=O)(=O)NC1=CC=C(C(=O)OCC)C=C1 | C10H13NO4S
reactant | sodium hydroxide | 0.022 mol, 1N, 22 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 4-[(Methylsulfonyl)amino]benzoic acid | 1.4 g, 65% | CS(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C8H9NO4S
